US09303040B2
LHMDS (1.0 M solution in THF, 2.21 mL, 2.21 mmol) was added dropwise at −78° C. under nitrogen to a stirred solution of the 6-(4-chlorophenyl)-4-azaspiro[2.4]heptan-5-one (0.409 g, 1.84 mmol) in THF (20 mL). The resulting solution was stirred at −78° C. for 30 minutes. A solution of Boc2O (0.443 g, 2.03 mmol) in THF (5 mL) was added all at once. The reaction was warmed to room temperature and stirred for 2 hours. The reaction was then quenched with 1N HCl and extracted with EtOAc. The combined organic layers were washed with brine, dried and concentrated. The residue was purified by column chromatography (hexanes:EtOAc, 4:1) to give tert-butyl 6-(4-chlorophenyl)-5-oxo-4-azaspiro[2.4]heptane-4-carboxylate (0.470 g, 79%).

reactant | LHMDS | 2.21 mmol, 1.0 M, 2.21 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 6-(4-chlorophenyl)-4-azaspiro[2.4]heptan-5-one | 1.84 mmol, 0.409 g | ClC1=CC=C(C=C1)C1C(NC2(CC2)C1)=O | C12H12ClNO
reactant | Boc2O | 2.03 mmol, 0.443 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl 6-(4-chlorophenyl)-5-oxo-4-azaspiro[2.4]heptane-4-carboxylate | 0.470 g, 79% | ClC1=CC=C(C=C1)C1C(N(C2(CC2)C1)C(=O)OC(C)(C)C)=O | C17H20ClNO3
